US05164390
1-(1-Chloro-2-hydroxy-3-propanyl)-4-(4-chlorobenzhydryl)piperazine Hemihydrate
To a mixture of epichlorohydrin (3.92 mL, 50 mmol) in ethanol (25 mL) and NAHCO3 (4.2 g, 50 mmol) 4-chlorobenzhydryl piperazine (14.34 g, 50 mmol) in EtOH (150 mL) was added dropwise over 45 min at 0° C. under nitrogen. After 20 h, the EtOH was removed in vacuo and the residue was eluted through silica gel using 50% MeOH:CH2Cl2 to give the pure product (3.40 g, 18.3%) as a white solid, mp 72°-74° C. DCI/MS (M+1) 379; 400 MHz 1H NMR (CDCl3) δ: 7.5-7.35 (m, 9H), 4.2 (s, 1H), 3.65 (m, 2H), 2.9 (m, 2H), 2.7-2.6 (m, 8H).

reactant | epichlorohydrin | 50 mmol, 3.92 mL | C(Cl)C1CO1 | C3H5ClO
reactant | 4-chlorobenzhydryl piperazine | 50 mmol, 4.2 g | ClC1=CC=C(C(C2=CC=CC=C2)N2CCNCC2)C=C1 | C17H19ClN2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | EtOH | 150 mL | CCO | C2H6O
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-(4-chlorobenzhydryl)piperazine Hemihydrate | 3.40 g, 18.3% | O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=CC=C1)O | InChI=1S/2C20H24Cl2N2O.H2O/c2*21-14-19(25)15-23-10-12-24(13-11-23)20(16-4-2-1-3-5-16)17-6-8-18(22)9-7-17;/h2*1-9,19-20,25H,10-15H2;1H2
